US04634768
Synthesis of morpholinoethyl 5-chloro-3-propionylsalicylate
A 24.3 g (0.10 mole) quantity of methyl 5-chloro-3-propionylsalicylate was added to a solution of 0.5 g (0.022 mole) of sodium in 300 ml of morpholinoethanol. The mixture was maintained at room temperature for 24 hours and was heated at 2 hours at 90° C. The reaction mixture was subjected to distillation at reduced pressure to remove the excess unreacted morpholinoethanol and the methanol produced, and the residue was recrystallized from cyclohexane to obtain 38.0 g (88.8%) of crystals which melt at 144.0° to 146.3° C.

reactant | methyl 5-chloro-3-propionylsalicylate | ClC1=CC(=C(C(C(=O)OC)=C1)O)C(CC)=O | C11H11ClO4
reactant | sodium | 0.022 mole, 0.5 g | [Na] | Na
reactant | morpholinoethanol | 300 ml | O1CCN(CC1)C(C)O | C6H13NO2
product | morpholinoethyl 5-chloro-3-propionylsalicylate | 38.0 g, 88.8% | ClC1=CC(=C(C(C(=O)OCCN2CCOCC2)=C1)O)C(CC)=O | C16H20ClNO5
